US04634704
To a stirred and cooled (below 10° C.) mixture of 5.52 parts of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidine ethanol, 100 parts of dimethyl sulfoxide and 90 parts of methylbenzene were added 0.75 parts of a sodium hydride dispersion 50%. After stirring for 30 minutes at a temperature below 10° C., 2.5 parts of 2-bromothiazole were added and stirring was continued overnight while the mixture was allowed to reach room temperature. The reaction mixture was poured onto water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1 part (14.5%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolyloxy)ethyl]- 4-piperidinyl]-1H-benzimidazol-2-amine; mp. 156.5° C. (compound 72).

reactant | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidine ethanol | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCO | C21H25FN4O
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-thiazolyloxy)ethyl]- 4-piperidinyl]-1H-benzimidazol-2-amine | 14.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCOC=2SC=CN2 | C24H26FN5OS
